US06093710
A mixture of 1-benzyl-6-carbamoyl-2,3-dihydro-2-oxo-1H-thieno[2,3-b][1,4]thiazine (0.18 g) and p-toluenesulfonyl chloride (0.17 g) in pyridine (5 ml) was stirred for 24 hours at room temperature. The reaction mixture was poured into a mixture of ethyl acetate and water, and adjusted to pH 1.5 with concentrated hydrochloric acid. The organic layer was successively washed with water and brine and dried over magnesium sulfate. The solvent was evaporated in vacuo and the residue was purified by column chromatography on silica gel eluting with chloroform. The fractions containing the object compound were collected and evaporated in vacuo to give 1-benzyl-6-cyano-2,3-dihydro-2-oxo-1H-thieno[2,3-b]-[1,4]thiazine (0.11 g)

reactant | 1-benzyl-6-carbamoyl-2,3-dihydro-2-oxo-1H-thieno[2,3-b][1,4]thiazine | 0.18 g | C(C1=CC=CC=C1)N1C2=C(SCC1=O)SC(=C2)C(N)=O | C14H12N2O2S2
reactant | p-toluenesulfonyl chloride | 0.17 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | 1-benzyl-6-cyano-2,3-dihydro-2-oxo-1H-thieno[2,3-b]-[1,4]thiazine | 0.11 g | C(C1=CC=CC=C1)N1C2=C(SCC1=O)SC(=C2)C#N | C14H10N2OS2
